US05225566
Step 1) Preparation of N-[(3S,4R)-3-Hydroxy-2,2-dimethyl-6-(trifluoromethoxy)-chroman-4-yl]-4-chloro-2-nitrobenzamide
4-Chloro-2-nitrobenzoic acid (2.02 g, 10 mmol) was converted to the corresponding acid chloride by refluxing in benzene (30 mL) with thionyl chloride (2.38 g, 20 mmol) for 2 hours. The crude mixture was concentrated in vacuo and diluted with dichloromethane (10 mL). This solution was added to a cooled solution of (3S,4R)-4-amino-2,2-dimethyl-6-(trifluoromethoxy)-chroman-3-ol (2.75 g, 10 mmol), triethylamine (1.39 mL, 10 mmol) and dichloromethane (25 mL). The crude benzamide was worked-up in a method similar to that in Example 1 and chromatographed (1:1 hexanes/ethyl acetate) to afford 2.0 g (43%) of white solid: m.p. 64°-66° C.; 1H NMR (DMSO-d6): δ9.24 (d, 1H), 8.19 (s, 1H), 7.96 (d, 1H), 7.83 (d, 1H), 7.29 (s, 1H), 7.18 (d, 1H), 6.86 (d, 1H), 5.88 (d, 1H), 4.94 (br t, 1H), 3.64 (dd, 1H), 1.42 (s, 3H), 1.19 (s, 3H).

reactant | 4-Chloro-2-nitrobenzoic acid | 10 mmol, 2.02 g | ClC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | thionyl chloride | 20 mmol, 2.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | (3S,4R)-4-amino-2,2-dimethyl-6-(trifluoromethoxy)-chroman-3-ol | 10 mmol, 2.75 g | N[C@H]1[C@@H](C(OC2=CC=C(C=C12)OC(F)(F)F)(C)C)O | C12H14F3NO3
reactant | triethylamine | 10 mmol, 1.39 mL | C(C)N(CC)CC | C6H15N
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-[(3S,4R)-3-Hydroxy-2,2-dimethyl-6-(trifluoromethoxy)-chroman-4-yl]-4-chloro-2-nitrobenzamide | 2.0 g, 43% | O[C@@H]1C(OC2=CC=C(C=C2[C@H]1NC(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)OC(F)(F)F)(C)C | C19H16ClF3N2O6
